US04477449
A suspension of 0.271 g (1.0 mmol) of 7-chloro-1,4-dihydro-1-ethyl-6-fluoro-4-oxo,1,8-naphthyridine-3-carboxylic acid, 0.316 g (3.0 mmol) of thiomorpholine and 30 ml of acetonitrile was heated at reflux for 18 hours. The solvent was removed in vacuo and the residue was recrystallized from aqueous ethanol to give 130 mg of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-1,8-naphthyridine-3-carboxylic acid; mp 241°-243° C.

reactant | 7-chloro-1,4-dihydro-1-ethyl-6-fluoro-4-oxo,1,8-naphthyridine-3-carboxylic acid | 1.0 mmol, 0.271 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | thiomorpholine | 3.0 mmol, 0.316 g | N1CCSCC1 | C4H9NS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-thiomorpholinyl)-1,8-naphthyridine-3-carboxylic acid | 130 mg | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CCSCC1)F)=O)C(=O)O | C15H16FN3O3S
